US07585885B2
2-(R)-(2-(S)-Amino-1-(S)-hydroxy-3-phenylpropyl)-4-(S)-fluoropyrrolidine-1-carboxylic acid tert-butyl ester
Dissolve nickel chloride hexahydrate (0.021 g, 0.09 mmol) and 4-(S)-fluoro-2-(R)-(1-(R)-hydroxy-2-(S)-nitro-3-phenylpropyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.33 g, 0.897 mmol) in methanol (5 mL). Cool in an ice bath and add sodium borohydride (0.17 g, 4.485 mmol) portionwise over 1 min. Stir 10 min, then concentrate. Partition in water and ethyl acetate and filter through filter agent. Separate layers and wash organic layer with saturated aqueous sodium chloride, dry (magnesium sulfate), and concentrate to give the title compound as a white foam.

reactant | 4-(S)-fluoro-2-(R)-(1-(R)-hydroxy-2-(S)-nitro-3-phenylpropyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.897 mmol, 0.33 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](C1)F)[C@H]([C@H](CC1=CC=CC=C1)[N+](=O)[O-])O | C18H25FN2O5
reactant | sodium borohydride | 4.485 mmol, 0.17 g | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | nickel chloride hexahydrate | 0.09 mmol, 0.021 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 2-(R)-(2-(S)-Amino-1-(S)-hydroxy-3-phenylpropyl)-4-(S)-fluoropyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](C1)F)[C@H]([C@H](CC1=CC=CC=C1)N)O | C18H27FN2O3
